US07067517B2
Cyclohexyl-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 3-(cyclohexyl-methyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide. The crude product was subjected to flash chromatography (ethyl acetate/heptane, 1:5) (80%, white crystals). HPLC-MS m/z=395.2 (M+1), Rt: 5.7 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 3-(cyclohexyl-methyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].C1(CCCCC1)N(C(=O)N1C=[N+](C=C1)C)C
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | Cyclohexyl-methyl-carbamic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(N(C)C1CCCCC1)=O)(F)F | C20H21F3N2O3
